US09029371B2
A mixture of 1-amino-2-(4-benzyloxy-phenyl)-propan-2-ol (1.26 g; 4.9 mmol), benzaldehyde (0.55 mL; 5.4 mmol), and p-toluenesulfonic acid (0.04 g; 0.24 mmol) in toluene (30 mL) was heated under reflux in a Dean-Stark apparatus, overnight. Subsequently, the mixture was cooled to RT and the solvent was removed in vacuo. The residue was suspended in MeOH (30 mL), cooled to −15° C., and treated with NaBH4 (0.74 g; 19.6 mmol), portionwise. After the addition was complete the mixture was warmed to RT and stirred for one hour. Subsequently, the MeOH was removed in vacuo. The residue was partitioned between Et2O and 5% aqueous NaHCO3. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by column chromatography (SiO2, Et2O:hexanes 2:1) to give 1-benzylamino-2-(4-benzyloxy-phenyl)-propan-2-ol (1.07 g).

reactant | 1-amino-2-(4-benzyloxy-phenyl)-propan-2-ol | 4.9 mmol, 1.26 g | NCC(C)(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H19NO2
reactant | benzaldehyde | 5.4 mmol, 0.55 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH4 | 19.6 mmol, 0.74 g | [BH4-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.24 mmol, 0.04 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-benzylamino-2-(4-benzyloxy-phenyl)-propan-2-ol | 1.07 g | C(C1=CC=CC=C1)NCC(C)(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H25NO2
